US09388161B2
A solution of 4-bromothiazol-2-amine (0.500 g, 2.81 mmol), acetic anhydride (0.43 mL, 4.50 mmol) and acetic acid (5 mL) was refluxed for 2 h. The reaction mixture was cooled to room temperature and concentrated under vacuum. The residue was purified via column chromatography on silica gel (eluting with 25% ethyl acetate-petroleum ether) to afford N-(4-bromothiazol-2-yl)acetamide (0.300 g, 49%) as a white solid. MS (ESI, pos. ion) m/z 221, 223 [M+H]+.

reactant | 4-bromothiazol-2-amine | 2.81 mmol, 0.500 g | BrC=1N=C(SC1)N | C3H3BrN2S
reactant | acetic anhydride | 4.50 mmol, 0.43 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | N-(4-bromothiazol-2-yl)acetamide | 0.300 g, 49% | BrC=1N=C(SC1)NC(C)=O | C5H5BrN2OS
